US06586421B2
tert-Butyl 6-[2-(benzoylamino)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0398 g, 0.0918 mmol) was dissolved in CH2Cl2 (2 mL) at rt. CF3CO2H (1 mL) was added, then the reaction mixture was stirred for 2 h. The reaction mixture was concentrated and the residue was taken up in EtOAc (2 mL). HCl (1N) in Et2O (2 mL) was added and the precipitated salt was collected by filtration. N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]benzamide hydrochloride (0.0271 g) was obtained in 79% yield. 1H NMR (300 MHz, CD3OD) δ 3.18-3.21, 3.33-3.38, 3.42-3.49, 3.69, 4.44, 7.05, 7.15, 7.38-7.54, 7.60, 7.60, 8.55-8.59; MS (ESI+) for C21H23N3O m/z 334.2 (M+H)+.

reactant | tert-Butyl 6-[2-(benzoylamino)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.0918 mmol, 0.0398 g | C(C1=CC=CC=C1)(=O)NCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C26H31N3O3
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]benzamide hydrochloride | 0.0271 g, 79% yield | Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CCNC(C2=CC=CC=C2)=O | InChI=1S/C21H23N3O.ClH/c25-21(16-6-2-1-3-7-16)23-14-15-24-19-9-5-4-8-17(19)18-10-12-22-13-11-20(18)24;/h1-9,22H,10-15H2,(H,23,25);1H
